** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/top_level/top_level_20260715/PLL_top.sch
.subckt PLL_top

x3 VOP1 VOP2 VOP3 VOP4 VON1 VON2 VON3 VON4 AVDD AVSS VBP VBN vco
x6 VCTRL AVDD STARTUP AVSS VBN bias_generator
x2 AVSS AVDD UP UPb DN VBP DNb VBN S1b S1 S2b S2 S3b S3 S4b S4 programmable_charge_pump
x7 AVSS AVDD UP UPb DN VCTRL DNb VBN S1b S1 S2b S2 S3b S3 S4b S4 programmable_charge_pump
x12 VBP AVSS AVDD VBN S1b S1 S2b S2 S3b S3 S4b S4 programmable_ffz
x8 VOP1 VOP2 VOP3 VOP4 VON1 VON2 VON3 VON4 VBN DUMMY1 DUMMY2 DUMMY3 DUMMY4 CK0 CK90 CK180 CK270 AVDD AVSS d2s_top
XC1 AVSS VBN cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=50
XC2 VBP AVSS cap_mim_2f0fF c_width=10e-6 c_length=10e-6 m=50
x1 predivb Ub Db div_outb AVDD AVSS pfd_11gate
x5 UPb Ub UP AVDD AVSS DNb Db DN pfd_s2d
x9 AVDD AVSS CK0 div_out D0 D1 D2 D3 D4 D5 D6 D7 rst pulse_swallow_div
x10 AVDD AVSS S1 S2 S3 S4 D0 D1 D2 D3 D4 D5 D6 D7 cp_lut
x11 AVDD div_out div_outb AVSS inv
x13 AVDD prediv predivb AVSS inv
x14 AVDD AVSS FREF prediv D8 D9 D10 D11 D12 D13 D14 D15 rst pulse_swallow_div
x15 AVDD AVSS net1 D0 D10 D11 D12 D13 D14 D15 D1 D2 D3 D4 D5 D6 D7 D8 D9 net2 net3 net4 net5 i2c_target
.ends

* expanding   symbol:  libs/core_analog/vco/vco.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/vco/vco.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/vco/vco.sch
.subckt vco VOP1 VOP2 VOP3 VOP4 VON1 VON2 VON3 VON4 AVDD AVSS VBP VBN
*.PININFO VOP[1..4]:O VON[1..4]:O VBP:I VBN:I AVDD:B AVSS:B
x1 VOP1 AVDD VOP4 VON4 VON1 AVSS VBP VBN delay_stage
x2 VOP2 AVDD VON1 VOP1 VON2 AVSS VBP VBN delay_stage
x3 VOP3 AVDD VON2 VOP2 VON3 AVSS VBP VBN delay_stage
x4 VOP4 AVDD VON3 VOP3 VON4 AVSS VBP VBN delay_stage
.ends


* expanding   symbol:  libs/core_analog/bias_generator/bias_generator.sym # of pins=5
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/bias_generator/bias_generator.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/bias_generator/bias_generator.sch
.subckt bias_generator VCTRL AVDD STARTUP AVSS VBN
*.PININFO VCTRL:I STARTUP:I AVDD:B AVSS:B VBN:O
x1 VBN AVDD net2 VCTRL AVSS net1 ota_5t
M1 net1 net1 AVDD AVDD pfet_03v3 L=0.5u W=16.8u nf=1 m=16
M8 net2 AVDD net4 AVSS nfet_03v3 L=0.5u W=2.08u nf=1 m=8
M11 net1 AVDD net3 AVSS nfet_03v3 L=0.5u W=2.08u nf=1 m=8
M2 net2 VCTRL AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1 m=8
M5 net2 net2 AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1 m=8
M7 net4 VBN AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1 m=8
M3 net3 VBN AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1 m=8
M4 net3 STARTUP AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1 m=2
.ends


* expanding   symbol:  libs/core_analog/programmable_charge_pump/programmable_charge_pump.sym # of pins=16
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/programmable_charge_pump/programmable_charge_pump.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/programmable_charge_pump/programmable_charge_pump.sch
.subckt programmable_charge_pump AVSS AVDD UP UP_B DN IP DN_B VBN S1b S1 S2b S2 S3b S3 S4b S4
*.PININFO VBN:I S1b:I S1:I S2b:I S2:I S3b:I S3:I S4b:I S4:I AVSS:B AVDD:B UP:I UP_B:I DN:I DN_B:I IP:O
x1 AVDD AVSS UP UP_B DN DN_B VBN1 IP S1b charge_pump
x61 AVDD AVSS UP UP_B DN DN_B VBN2 IP S2b charge_pump
x62 AVDD AVSS UP UP_B DN DN_B VBN2 IP S2b charge_pump
x71 AVDD AVSS UP UP_B DN DN_B VBN3 IP S3b charge_pump
x72 AVDD AVSS UP UP_B DN DN_B VBN3 IP S3b charge_pump
x73 AVDD AVSS UP UP_B DN DN_B VBN3 IP S3b charge_pump
x74 AVDD AVSS UP UP_B DN DN_B VBN3 IP S3b charge_pump
x81 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x82 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x83 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x84 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x85 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x86 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x87 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x88 AVDD AVSS UP UP_B DN DN_B VBN4 IP S4b charge_pump
x2 VBN AVSS S1 VBN1 S1b AVDD transmission_gate
x0 AVDD AVSS UP UP_B DN DN_B VBN IP AVSS charge_pump
x3 VBN AVSS S2 VBN2 S2b AVDD transmission_gate
x4 VBN AVSS S3 VBN3 S3b AVDD transmission_gate
x5 VBN AVSS S4 VBN4 S4b AVDD transmission_gate
.ends


* expanding   symbol:  libs/core_analog/programmable_ffz/programmable_ffz.sym # of pins=12
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/programmable_ffz/programmable_ffz.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/programmable_ffz/programmable_ffz.sch
.subckt programmable_ffz VBP AVSS AVDD VBN S1b S1 S2b S2 S3b S3 S4b S4
*.PININFO VBN:I S1b:I S1:I S2b:I S2:I S3b:I S3:I S4b:I S4:I AVSS:B AVDD:B VBP:O
x2 VBN AVSS S1 VBN1 S1b AVDD transmission_gate
x3 VBN AVSS S2 VBN2 S2b AVDD transmission_gate
x4 VBN AVSS S3 VBN3 S3b AVDD transmission_gate
x5 VBN AVSS S4 VBN4 S4b AVDD transmission_gate
x1 AVDD VBP VBN AVSS AVSS feed_forward_zero
x6 AVDD net1 VBN1 S1b AVSS feed_forward_zero
x71 AVDD net2_1 VBN2 S2b AVSS feed_forward_zero
x72 AVDD net2_0 VBN2 S2b AVSS feed_forward_zero
x11 AVDD net3_3 VBN3 S3b AVSS feed_forward_zero
x12 AVDD net3_2 VBN3 S3b AVSS feed_forward_zero
x13 AVDD net3_1 VBN3 S3b AVSS feed_forward_zero
x14 AVDD net3_0 VBN3 S3b AVSS feed_forward_zero
x21 AVDD net4_7 VBN4 S4b AVSS feed_forward_zero
x22 AVDD net4_6 VBN4 S4b AVSS feed_forward_zero
x23 AVDD net4_5 VBN4 S4b AVSS feed_forward_zero
x24 AVDD net4_4 VBN4 S4b AVSS feed_forward_zero
x25 AVDD net4_3 VBN4 S4b AVSS feed_forward_zero
x26 AVDD net4_2 VBN4 S4b AVSS feed_forward_zero
x27 AVDD net4_1 VBN4 S4b AVSS feed_forward_zero
x28 AVDD net4_0 VBN4 S4b AVSS feed_forward_zero
x7 net1 AVSS S1 VBP S1b AVDD transmission_gate
x81 net2_1 AVSS S2 VBP S2b AVDD transmission_gate
x82 net2_0 AVSS S2 VBP S2b AVDD transmission_gate
x91 net3_3 AVSS S3 VBP S3b AVDD transmission_gate
x92 net3_2 AVSS S3 VBP S3b AVDD transmission_gate
x93 net3_1 AVSS S3 VBP S3b AVDD transmission_gate
x94 net3_0 AVSS S3 VBP S3b AVDD transmission_gate
x101 net4_7 AVSS S4 VBP S4b AVDD transmission_gate
x102 net4_6 AVSS S4 VBP S4b AVDD transmission_gate
x103 net4_5 AVSS S4 VBP S4b AVDD transmission_gate
x104 net4_4 AVSS S4 VBP S4b AVDD transmission_gate
x105 net4_3 AVSS S4 VBP S4b AVDD transmission_gate
x106 net4_2 AVSS S4 VBP S4b AVDD transmission_gate
x107 net4_1 AVSS S4 VBP S4b AVDD transmission_gate
x108 net4_0 AVSS S4 VBP S4b AVDD transmission_gate
.ends


* expanding   symbol:  libs/core_analog/d2s_top/d2s_top.sym # of pins=10
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_top/d2s_top.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_top/d2s_top.sch
.subckt d2s_top VOP1 VOP2 VOP3 VOP4 VON1 VON2 VON3 VON4 VBN DUMMY1 DUMMY2 DUMMY3 DUMMY4 CK0 CK90 CK180 CK270 AVDD AVSS
*.PININFO VOP[1..4]:I VON[1..4]:I VBN:I DUMMY[1..4]:O CK0:O CK90:O CK180:O CK270:O AVDD:B AVSS:B
x1 AVDD AVSS VON1 VOP1 VBN net8 d2s_converter
x2 AVDD AVSS VON3 VOP3 VBN net1 d2s_converter
x9 AVDD net8 CK0 AVSS inv
x10 AVDD net1 CK90 AVSS inv
x3 AVDD AVSS VOP1 VON1 VBN net2 d2s_converter
x4 AVDD net2 CK180 AVSS inv
x5 AVDD AVSS VOP3 VON3 VBN net3 d2s_converter
x6 AVDD net3 CK270 AVSS inv
x7 AVDD AVSS VON2 VOP2 VBN net7 d2s_converter
x8 AVDD AVSS VON4 VOP4 VBN net4 d2s_converter
x11 AVDD net7 DUMMY1 AVSS inv
x12 AVDD net4 DUMMY2 AVSS inv
x13 AVDD AVSS VOP2 VON2 VBN net5 d2s_converter
x14 AVDD net5 DUMMY3 AVSS inv
x15 AVDD AVSS VOP4 VON4 VBN net6 d2s_converter
x16 AVDD net6 DUMMY4 AVSS inv
.ends


* expanding   symbol:  libs/core_analog/pfd/pfd_11gate.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/pfd_11gate.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/pfd_11gate.sch
.subckt pfd_11gate REF_B UPB DNB FB_B VDD VSS
*.PININFO REF_B:I FB_B:I UPB:O DNB:O VDD:B VSS:B
XU1 VDD out_u1 net1 REF_B VSS nand_pf
XU2 VDD out_u2 out_u1 out_u3 VSS nand_pf
XU3 VDD out_u3 out_u2 out_u7 VSS nand_pf
XU4 VDD out_u4 out_u7 out_u5 VSS nand_pf
XU5 VDD out_u5 out_u4 out_u6 VSS nand_pf
XU6 VDD out_u6 FB_B out_u11 VSS nand_pf
XU7 VDD out_u7 out_u1 out_u2 out_u6 out_u5 VSS nand4_pf
XU8 VDD net1 out_u1 out_u7 out_u2 VSS nand3_pf
XU9 VDD UPB out_u1 out_u2 VSS nand_pf
XU10 VDD DNB out_u5 out_u6 VSS nand_pf
XU11 VDD out_u11 out_u5 out_u7 out_u6 VSS nand3_pf
.ends


* expanding   symbol:  libs/core_analog/pfd_s2d/pfd_s2d.sym # of pins=8
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd_s2d/pfd_s2d.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd_s2d/pfd_s2d.sch
.subckt pfd_s2d UPB UB UP AVDD AVSS DNB DB DN
*.PININFO UB:I DB:I AVDD:B AVSS:B UP:O UPB:O DN:O DNB:O
M1 U AVSS U_delay AVDD pfet_03v3 L=0.3u W=1u nf=1
M2 U AVDD U_delay AVSS nfet_03v3 L=0.3u W=0.5u nf=1
x10 AVDD UB U AVSS inv
x11 AVDD UB U AVSS inv
x20 AVDD U U_B AVSS inv
x21 AVDD U U_B AVSS inv
x30 AVDD U_delay UPB AVSS inv
x31 AVDD U_delay UPB AVSS inv
x32 AVDD U_delay UPB AVSS inv
x33 AVDD U_delay UPB AVSS inv
x34 AVDD U_delay UPB AVSS inv
x35 AVDD U_delay UPB AVSS inv
x36 AVDD U_delay UPB AVSS inv
x37 AVDD U_delay UPB AVSS inv
x38 AVDD U_delay UPB AVSS inv
x40 AVDD U_B UP AVSS inv
x41 AVDD U_B UP AVSS inv
x42 AVDD U_B UP AVSS inv
x43 AVDD U_B UP AVSS inv
x44 AVDD U_B UP AVSS inv
x45 AVDD U_B UP AVSS inv
x46 AVDD U_B UP AVSS inv
x47 AVDD U_B UP AVSS inv
x48 AVDD U_B UP AVSS inv
x50 AVDD DB D AVSS inv
x51 AVDD DB D AVSS inv
x60 AVDD D D_B AVSS inv
x61 AVDD D D_B AVSS inv
x70 AVDD D_delay DNB AVSS inv
x71 AVDD D_delay DNB AVSS inv
x72 AVDD D_delay DNB AVSS inv
x73 AVDD D_delay DNB AVSS inv
x74 AVDD D_delay DNB AVSS inv
x75 AVDD D_delay DNB AVSS inv
x76 AVDD D_delay DNB AVSS inv
x77 AVDD D_delay DNB AVSS inv
x78 AVDD D_delay DNB AVSS inv
x80 AVDD D_B DN AVSS inv
x81 AVDD D_B DN AVSS inv
x82 AVDD D_B DN AVSS inv
x83 AVDD D_B DN AVSS inv
x84 AVDD D_B DN AVSS inv
x85 AVDD D_B DN AVSS inv
x86 AVDD D_B DN AVSS inv
x87 AVDD D_B DN AVSS inv
x88 AVDD D_B DN AVSS inv
M3 D AVSS D_delay AVDD pfet_03v3 L=0.3u W=1u nf=1
M4 D AVDD D_delay AVSS nfet_03v3 L=0.3u W=0.5u nf=1
.ends


* expanding   symbol:  libs/core_analog/inv/inv.sym # of pins=4
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/inv/inv.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/inv/inv.sch
.subckt inv AVDD IN OUT AVSS
*.PININFO IN:I AVDD:B AVSS:B OUT:O
M1 OUT IN AVDD AVDD pfet_03v3 L=0.28u W=0.9u nf=1
M2 OUT IN AVSS AVSS nfet_03v3 L=0.28u W=0.3u nf=1
.ends


* expanding   symbol:  libs/core_analog/delay_stage/delay_stage.sym # of pins=8
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/delay_stage/delay_stage.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/delay_stage/delay_stage.sch
.subckt delay_stage VOP AVDD VIP VIN VON AVSS VBP VBN
*.PININFO VIP:I VIN:I VOP:O VON:O AVDD:B AVSS:B VBP:I VBN:I
M5 VON VIP net1 AVSS nfet_03v3 L=0.5u W=2.08u nf=1 m=8
M2 VON VON AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1 m=8
M6 VOP VIN net1 AVSS nfet_03v3 L=0.5u W=2.08u nf=1 m=8
M1 VON VBP AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1 m=8
M3 VOP VBP AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1 m=8
M4 VOP VOP AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1 m=8
M8 net1 VBN AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1 m=8
.ends


* expanding   symbol:  libs/core_analog/ota_5t/ota_5t.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/ota_5t/ota_5t.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/ota_5t/ota_5t.sch
.subckt ota_5t VO AVDD VI+ VI- AVSS VB
*.PININFO VI+:I VI-:I VB:I AVDD:B AVSS:B VO:O
M1 VO VI- net2 AVDD pfet_03v3 L=0.5u W=6.55u nf=1 m=8
M4 VO net1 AVSS AVSS nfet_03v3 L=0.5u W=4.8u nf=1 m=4
M3 net2 VB AVDD AVDD pfet_03v3 L=0.5u W=16.8u nf=1 m=16
M2 net1 VI+ net2 AVDD pfet_03v3 L=0.5u W=6.55u nf=1 m=8
M5 net1 net1 AVSS AVSS nfet_03v3 L=0.5u W=4.8u nf=1 m=4
.ends


* expanding   symbol:  libs/core_analog/charge_pump/charge_pump.sym # of pins=9
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/charge_pump/charge_pump.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/charge_pump/charge_pump.sch
.subckt charge_pump VDD VSS UP UP_B DN DN_B VBN IP S
*.PININFO VDD:B VSS:B UP:I UP_B:I DN:I DN_B:I VBN:I IP:B S:I
x1 net5 net5 VDD net5 VDD cp_sym_load
x2 net3 net3 VDD net3 VDD cp_sym_load
x3 net4 net4 VDD net4 VDD cp_sym_load
x4 net5 net5 VDD IP VDD cp_sym_load
M1 net1 VBN VSS VSS nfet_03v3 L=0.5u W=11.25u nf=1
M3 net5 DN net1 VSS nfet_03v3 L=0.5u W=2.08u nf=1
M7 VBN S VSS VSS nfet_03v3 L=0.5u W=1u nf=1
M8 VBN S VSS VSS nfet_03v3 L=0.5u W=1u nf=1
M4 net3 DN_B net1 VSS nfet_03v3 L=0.5u W=2.08u nf=1
M5 net4 UP_B net2 VSS nfet_03v3 L=0.5u W=2.08u nf=1
M6 IP UP net2 VSS nfet_03v3 L=0.5u W=2.08u nf=1
M2 net2 VBN VSS VSS nfet_03v3 L=0.5u W=11.25u nf=1
.ends


* expanding   symbol:  libs/core_analog/transmission_gate/transmission_gate.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/transmission_gate/transmission_gate.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/transmission_gate/transmission_gate.sch
.subckt transmission_gate ind vss clkn ins clkp vdd
*.PININFO ind:B ins:B clkn:B clkp:B vdd:B vss:B
M1 ind clkp ins vdd pfet_03v3 L=0.5u W=3.0u nf=1
M2 ind clkn ins vss nfet_03v3 L=0.5u W=1.0u nf=1
.ends


* expanding   symbol:  libs/core_analog/feed_forward_zero/feed_forward_zero.sym # of pins=5
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/feed_forward_zero/feed_forward_zero.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/feed_forward_zero/feed_forward_zero.sch
.subckt feed_forward_zero AVDD VBP VBN S AVSS
*.PININFO VBP:O AVDD:B AVSS:B VBN:I S:I
M1 VBP VBP AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1
M3 VBP AVDD net1 AVSS nfet_03v3 L=0.5u W=2.08u nf=1
M4 net1 VBN AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1
M7 VBN S AVSS AVSS nfet_03v3 L=0.5u W=1u nf=1
M2 VBP VBP AVDD AVDD pfet_03v3 L=1.5u W=1.1u nf=1
.ends


* expanding   symbol:  libs/core_analog/d2s_converter/d2s_converter.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_converter/d2s_converter.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_converter/d2s_converter.sch
.subckt d2s_converter AVDD AVSS VIN VIP VBN VO
*.PININFO AVDD:B AVSS:B VIN:I VIP:I VO:O VBN:I
M2 VOPB VIN i1 AVSS nfet_03v3 L=0.3u W=1.9u nf=1 m=4
M4 VOPB VOPB AVDD AVDD pfet_03v3 L=0.3u W=1.4u nf=1 m=4
M11 VOB VOB AVSS AVSS nfet_03v3 L=0.3u W=1.5u nf=1 m=4
M13 VOB VOP AVDD AVDD pfet_03v3 L=0.3u W=2u nf=1 m=4
M3 VOP VIP i1 AVSS nfet_03v3 L=0.3u W=1.9u nf=1 m=4
M5 VOP VOPB AVDD AVDD pfet_03v3 L=0.3u W=1.4u nf=1 m=4
M7 VONB VIP i2 AVSS nfet_03v3 L=0.3u W=1.9u nf=1 m=4
M8 VONB VONB AVDD AVDD pfet_03v3 L=0.3u W=1.4u nf=1 m=4
M9 VON VIN i2 AVSS nfet_03v3 L=0.3u W=1.9u nf=1 m=4
M10 VON VONB AVDD AVDD pfet_03v3 L=0.3u W=1.4u nf=1 m=4
M14 VO VON AVDD AVDD pfet_03v3 L=0.3u W=2u nf=1 m=4
M12 VO VOB AVSS AVSS nfet_03v3 L=0.3u W=1.5u nf=1 m=4
M1 i1 VBN AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1 m=4
M6 i2 VBN AVSS AVSS nfet_03v3 L=0.5u W=11.25u nf=1 m=4
.ends


* expanding   symbol:  libs/core_analog/pfd/nand_pf.sym # of pins=5
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/nand_pf.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/nand_pf.sch
.subckt nand_pf VDD Z A B VSS
*.PININFO VDD:B A:I Z:O B:I VSS:B
Mp1 Z B VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mp2 Z A VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mn1 Z A net1 VSS nfet_03v3 L=0.28u W=1u nf=1
Mn2 net1 B VSS VSS nfet_03v3 L=0.28u W=1u nf=1
.ends


* expanding   symbol:  libs/core_analog/pfd/nand4_pf.sym # of pins=7
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/nand4_pf.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/nand4_pf.sch
.subckt nand4_pf VDD Z A B C D VSS
*.PININFO VDD:B VSS:B A:I B:I C:I D:I Z:O
Mp1 Z A VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mp2 Z B VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mp3 Z C VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mp4 Z D VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mn1 Z A net1 VSS nfet_03v3 L=0.28u W=2u nf=1
Mn2 net1 B net2 VSS nfet_03v3 L=0.28u W=2u nf=1
Mn3 net2 C net3 VSS nfet_03v3 L=0.28u W=2u nf=1
Mn4 net3 D VSS VSS nfet_03v3 L=0.28u W=2u nf=1
.ends


* expanding   symbol:  libs/core_analog/pfd/nand3_pf.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/nand3_pf.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/pfd/nand3_pf.sch
.subckt nand3_pf VDD Z A B C VSS
*.PININFO VDD:B VSS:B A:I B:I C:I Z:O
Mp1 Z A VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mp2 Z B VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mp3 Z C VDD VDD pfet_03v3 L=0.28u W=1u nf=1
Mn1 Z A net1 VSS nfet_03v3 L=0.28u W=1.5u nf=1
Mn2 net1 B net2 VSS nfet_03v3 L=0.28u W=1.5u nf=1
Mn3 net2 C VSS VSS nfet_03v3 L=0.28u W=1.5u nf=1
.ends


* expanding   symbol:  libs/core_analog/cp_sym_load/cp_sym_load.sym # of pins=5
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/cp_sym_load/cp_sym_load.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/cp_sym_load/cp_sym_load.sch
.subckt cp_sym_load G1 G2 S D VDD
*.PININFO G1:I G2:I S:B D:B VDD:B
M1 D G1 S VDD pfet_03v3 L=1.5u W=1.1u nf=1
M2 D G2 S VDD pfet_03v3 L=1.5u W=1.1u nf=1
.ends

